US06949542B2
[2-[3-Oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example J30) (230 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (298 mg, 75%).

reactant | [2-amino-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 230 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC(F)(F)F)N)=O | C13H17F3N2O3
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | [2-[3-Oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C27H26F3N3O5
